US05574042
To a suspension of sodium hydride (60% oil dispersion, 17 mg) was added 8-acetylamino-2-methylimidazo[1,2-a]pyridine (73 mg), and the mixture was stirred for 30 minutes, 2,6-dichlorobenzyl bromide (97 mg) was added thereto, and the mixture was stirred for 1 hour. Water was added thereto, and the mixture was extracted with methylene chloride three times. The combined organic layer was washed with water four times and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was crystallized with diethyl ether to give 8-[N-(2,6-dichlorophenyl)methyl-N-acetylamino]-2-methylimidazo[1,2-a]pyridine (85 mg).

reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | 8-acetylamino-2-methylimidazo[1,2-a]pyridine | 73 mg | C(C)(=O)NC=1C=2N(C=CC1)C=C(N2)C | C10H11N3O
reactant | 2,6-dichlorobenzyl bromide | 97 mg | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | Water | O | H2O
product | 8-[N-(2,6-dichlorophenyl)methyl-N-acetylamino]-2-methylimidazo[1,2-a]pyridine | 85 mg | ClC1=C(C(=CC=C1)Cl)CN(C(C)=O)C=1C=2N(C=CC1)C=C(N2)C | C17H15Cl2N3O
